US08975277B2
(R)-4-[(R)-5-(4-Methanesulfonyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid 2,2,2-trifluoro-1-methyl-ethyl ester
The title compound is prepared from (R)-5-(4-methanesulfonyl-phenyl)-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine and carbonic acid 4-nitro-phenyl ester (R)-2,2,2-trifluoro-1-methyl-ethyl ester following a procedure analogous to that described for Example 1. LC (method 2): tR=1.07 min; Mass spectrum (ESI+): m/z=499 [M+H]+.

reactant | (R)-5-(4-methanesulfonyl-phenyl)-2-piperidin-4-yl-2,3-dihydro-furo[2,3-c]pyridine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)O[C@H](C2)C2CCNCC2 | C19H22N2O3S
reactant | carbonic acid 4-nitro-phenyl ester (R)-2,2,2-trifluoro-1-methyl-ethyl ester | FC([C@@H](C)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C10H8F3NO5
product | (R)-4-[(R)-5-(4-Methanesulfonyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid 2,2,2-trifluoro-1-methyl-ethyl ester | FC([C@@H](C)OC(=O)N1CCC(CC1)[C@H]1CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)C)O1)(F)F | C23H25F3N2O5S
